US07960567B2
Methyl 2-(4-(4-amino-2-methyl-1H-benzo[d]imidazol-5-yloxy)-3-chlorophenyl)acetate (20.5).
Under an N2 atmosphere, methyl 2-(3-chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate (0.226 g, 0.601 mmol) was dissolved in ethyl acetate and tin chloride dihydrate (0.543 g, 2.41 mmol) was added. The reaction was allowed to stir at room temperature for 16 h. The reaction was diluted with ethyl acetate and washed with a 10% NaHCO3 (aq) solution. The aqueous layer was washed with additional ethyl acetate. The organics were combined, dried (Na2SO4), filtered, and concentrated in vacuo, and the title compound isolated. LC-MS ESI (pos.) m/z: 346.0 (M+H).

reactant | methyl 2-(3-chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate | 0.601 mmol, 0.226 g | ClC=1C=C(C=CC1OC1=C(C2=C(NC(=N2)C)C=C1)[N+](=O)[O-])CC(=O)OC | C17H14ClN3O5
reactant | tin chloride dihydrate | 2.41 mmol, 0.543 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(4-(4-amino-2-methyl-1H-benzo[d]imidazol-5-yloxy)-3-chlorophenyl)acetate | NC1=C(C=CC=2NC(=NC21)C)OC2=C(C=C(C=C2)CC(=O)OC)Cl | C17H16ClN3O3
